US04742057
A mixture of 4-[4-(3-indolyl)piperidinomethyl]-2-acryloylaminothiazole (360 mg) and morpholine (870 mg) was heated at 105° C. After the reaction finished, excess morpholine was distilled off, and the residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (20:1 V/V) to give 4-[4-(3-indolyl)piperidinomethyl]2-(3-morpholinopropionylamino)thiazole, which was treated with an ethanol solution of hydrogen chloride to give dihydrochloride thereof.

reactant | 4-[4-(3-indolyl)piperidinomethyl]-2-acryloylaminothiazole | 360 mg | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)NC(C=C)=O | C20H22N4OS
reactant | morpholine | 870 mg | N1CCOCC1 | C4H9NO
product | 4-[4-(3-indolyl)piperidinomethyl]2-(3-morpholinopropionylamino)thiazole | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)NC(CCN1CCOCC1)=O | C24H31N5O2S
